* DC multi-source series mesh — Schaum's Fig. 3-27
V1 n1 0 DC 22.4
R1 n1 a 4
R2 a nc 3
V2 nc nd DC 32.4
R3 nd ne 5
V3 b ne DC 19.7
V4 nf b DC 14.3
R4 nf 0 4
.op
.print dc V(a) V(b)
.end